US04772719
3-bromo-5-acetylisoxazole
In a similar manner 3-methoxy-5-(1-hydroxyethyl)-isoxazole, 3-bromo-5-(1-hydroxypropyl)-isoxazole and 3-bromo-5-(1-hydroxybutyl)-isoxazole were oxidized to afford

reactant | 3-methoxy-5-(1-hydroxyethyl)-isoxazole | COC1=NOC(=C1)C(C)O | C6H9NO3
reactant | 3-bromo-5-(1-hydroxypropyl)-isoxazole | BrC1=NOC(=C1)C(CC)O | C6H8BrNO2
reactant | 3-bromo-5-(1-hydroxybutyl)-isoxazole | BrC1=NOC(=C1)C(CCC)O | C7H10BrNO2
product | 3-bromo-5-acetylisoxazole | BrC1=NOC(=C1)C(C)=O | C5H4BrNO2
